US06906072B1
Example 70 1-[(4-Cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine
In acetonitrile (10.0 ml) was dissolved 400 mg (1.61 mmol) of 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexanol, followed by cooling to 0° C. To the mixture were added 0.26 ml (1.85 mmol) of triethylamine and 0.14 ml (1.77 mmol) of mesyl chloride, followed by heating to room temperature. After 20 minutes, ether and brine were added thereto. The ether layer was washed with an aqueous saturated sodium bicarbonate and dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The half amount (ca. 0.1 mmol) of the crude mesyl compound was dissolved in 8.00 ml of dimethylformamide. To the mixture were added 724 mg (4.83 mmol) of sodium iodide, ill mg (0.81 mmol) of potassium carbonate and 243 mg (1.05 mmol) of 1-[2-(3-cyanophenoxy)ethyl]piperazine, followed by heating to 60° C. After completion of the reaction, brine was added thereto, and the objective product was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous magnesium sulfate. The solvent was evaporated, to give a crude product. The crude product was subjected to Cromatorex NH silica gel (eluted with ethyl acetate/hexane=1/1), to give 289 mg (0.63 mmol, 77.3%) of the title compound as a yellow syrup.

reactant | 4-cyano-5-methyl-4-(5-cyano-2-thienyl)hexanol | 1.61 mmol, 400 mg | C(#N)C(CCCO)(C(C)C)C=1SC(=CC1)C#N | C13H16N2OS
reactant | triethylamine | 1.85 mmol, 0.26 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 1.77 mmol, 0.14 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | sodium iodide | 4.83 mmol, 724 mg | [I-].[Na+]
reactant | potassium carbonate | 0.81 mmol | C([O-])([O-])=O.[K+].[K+]
reactant | 1-[2-(3-cyanophenoxy)ethyl]piperazine | 1.05 mmol, 243 mg | C(#N)C=1C=C(OCCN2CCNCC2)C=CC1 | C13H17N3O
solvent | acetonitrile | 10.0 ml | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
solvent | dimethylformamide | 8.00 ml | CN(C=O)C | C3H7NO
solvent | ether | CCOCC | C4H10O
product | (4-Cyano-5-methyl-4-(5-cyano-2-thienyl)hexyl]-4-[2-(3-cyanophenoxy)ethyl]piperazine | 0.63 mmol, 289 mg, 77.3% | C(#N)C(CCCN1CCN(CC1)CCOC1=CC(=CC=C1)C#N)(C(C)C)C=1SC(=CC1)C#N | C26H31N5OS
